US05162347
(1) N-[4-(2-bromo-1-hydroxyethyl)phenyl]methanesulfonamide
20.0 g (61.0 mmol) of N-[4-(2-bromoacetyl)phenyl]methanesulfonamide was suspended in 240 ml of methanol. 2.84 g of sodium borohydride was added in three portions at intervals of 5 min to the suspension cooled at -20° C. The mixture was stirred at -20° C. for 2 h. Concentrated hydrochloric acid was added dropwise to the mixture to acidify it. 300 ml of water and 500 ml of chloroform were added thereto. After extraction with chloroform, the organic layer was concentrated and a solid residue thus obtained was recrystallized from ether to give 16.4 g (yield: 82%) of the intended compound in the form of white crystals.

reactant | N-[4-(2-bromoacetyl)phenyl]methanesulfonamide | 61.0 mmol, 20.0 g | BrCC(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C9H10BrNO3S
reactant | sodium borohydride | 2.84 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 300 ml | O | H2O
solvent | methanol | 240 ml | CO | CH4O
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(2-bromo-1-hydroxyethyl)phenyl]methanesulfonamide | 16.4 g, yield: 82% | BrCC(O)C1=CC=C(C=C1)NS(=O)(=O)C | C9H12BrNO3S
